US07214700B2
2-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidene)-N-(3,4-dimethoxyphenyl)-2-phenyl-acetamide
A mixture of (5-bromo-2-oxo-1,2-dihydroindol-3-ylidene)phenyl-acetic acid (70 mg), 3,4-dimethoxyaniline (63 mg), 4-dimethylaminopyridine (25 mg), benzotriazol-1-yloxy-tris (dimethylamino) phosphonium hexafluorophosphate (BOP, 90 mg) and TEA (1 drop) in DMF (2 mL) was refluxed overnight. The reaction mixture was concentrated and then diluted with aqueous carbonate. The precipitate which formed was washed with dilute HCl and water and then dried to give 16 mg of the title compound.

reactant | (5-bromo-2-oxo-1,2-dihydroindol-3-ylidene)phenyl-acetic acid | 70 mg | BrC=1C=C2C(C(NC2=CC1)=O)=C(C(=O)O)C1=CC=CC=C1 | C16H10BrNO3
reactant | 3,4-dimethoxyaniline | 63 mg | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | benzotriazol-1-yloxy-tris (dimethylamino) phosphonium hexafluorophosphate | 90 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidene)-N-(3,4-dimethoxyphenyl)-2-phenyl-acetamide | 16 mg | BrC=1C=C2C(C(NC2=CC1)=O)=C(C(=O)NC1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C24H19BrN2O4
